US08912173B2
Step 3: Synthesis of (R/S)-4-acetyl-1-[(S)-1-(4-methoxyphenyl)-ethyl]-pyrrolidine-2-one as a mixture of diastereoisomers
530 mL of a 3 M solution of methylmagnesium bromide in diethylether is added slowly to a cooled solution of 271 g of (R/S)—N-Methoxy-5-oxo-1-[(S)-1-(4-methoxyphenyl)-ethyl]-pyrrolidine-3-carboxamide (mixture of diastereoisomers) in 1.4 L of 2-methyltetrahydrofuran so that the temperature remains under 0° C. After complete addition the temperature is kept for 75 minutes at 0° C. and then warmed up to 20° C. The suspension is stirred 16 hours at 20° C. Under cooling 650 mL of a 4 M hydrochloric acid are added. The organic phase is separated and washed with 500 mL saturated sodium carbonate solution and with 500 mL saturated brine. The organic phase is dried over sodium sulfate. After filtration the solvent is evaporated under reduced pressure.

reactant | methylmagnesium bromide | C[Mg]Br
reactant | (R/S)—N-Methoxy-5-oxo-1-[(S)-1-(4-methoxyphenyl)-ethyl]-pyrrolidine-3-carboxamide | 271 g | CONC(=O)C1CN(C(C1)=O)[C@@H](C)C1=CC=C(C=C1)OC | C15H20N2O4
reactant | hydrochloric acid | 4 M | Cl | ClH
solvent | diethylether | C(C)OCC | C4H10O
solvent | 2-methyltetrahydrofuran | 1.4 L | CC1OCCC1 | C5H10O
product | (R/S)-4-acetyl-1-[(S)-1-(4-methoxyphenyl)-ethyl]-pyrrolidine-2-one | C(C)(=O)C1CC(N(C1)[C@@H](C)C1=CC=C(C=C1)OC)=O | C15H19NO3
